US04322370
A solution of 4-(4-chlorophenyl)-7-(2-benzylmethylaminoethoxy)-2,2-dimethyl-1-tetralone hydrochloride (4.3 g) in ethanol (100 ml) was hydrogenated in the presence of 10% palladium on charcoal (0.43 g) until hydrogen uptake was complete. After filtration the solvent was removed in vacuo to give 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-methylaminoethoxy)-1-tetralone hydrochloride. Recrystallisation from ether-ethyl acetate gave white crystals m.p. 150°-3° (2.6 g, 74%).

reactant | 4-(4-chlorophenyl)-7-(2-benzylmethylaminoethoxy)-2,2-dimethyl-1-tetralone hydrochloride | 4.3 g | Cl.ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCNCCC1=CC=CC=C1)=O)(C)C
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.43 g | [Pd] | Pd
product | 4-(4-chlorophenyl)-2,2-dimethyl-7-(2-methylaminoethoxy)-1-tetralone hydrochloride | Cl.ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OCCNC)=O)(C)C | InChI=1S/C21H24ClNO2.ClH/c1-21(2)13-19(14-4-6-15(22)7-5-14)17-9-8-16(25-11-10-23-3)12-18(17)20(21)24;/h4-9,12,19,23H,10-11,13H2,1-3H3;1H
